US04532367
2-chloro-6-methyl-4-(3',4'-dichlorobenzyl)-phenol
90.4 g (0.63 mol) 2-chloro-6-methylphenol are brought to reaction with 149.4 g (0.765 mol) 3,4-dichlorobenzylchloride and 2.4 g water-free, finely mortared ZnCL2 without solvent. After stirring 5-6 h at 60° C. the reaction mixture is subsequently worked up by washing three times, each with 100 ml water.

reactant | 2-chloro-6-methylphenol | 0.63 mol, 90.4 g | ClC1=C(C(=CC=C1)C)O | C7H7ClO
reactant | 3,4-dichlorobenzylchloride | 0.765 mol, 149.4 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | water | 2.4 g | O | H2O
product | 2-chloro-6-methyl-4-(3',4'-dichlorobenzyl)-phenol | ClC1=C(C(=CC(=C1)CC1=CC(=C(C=C1)Cl)Cl)C)O | C14H11Cl3O
